US04238487
A solution of 2-(4-bromobutyl)benzofuran-6-carboxylic acid (29.7 g., 0.1 mole) and sulfuric acid (0.5 ml.) in ethanol (200 ml.) is boiled under reflux. The solution is concentrated to 7/8 volume at reduced pressure. The residue is poured into water. The oily ester is extracted with ether. Evaporation of the solvent provides ethyl 2-(4-bromobutyl)benzofuran-6-carboxylate.

reactant | 2-(4-bromobutyl)benzofuran-6-carboxylic acid | 0.1 mole, 29.7 g | BrCCCCC=1OC2=C(C1)C=CC(=C2)C(=O)O | C13H13BrO3
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 2-(4-bromobutyl)benzofuran-6-carboxylate | BrCCCCC=1OC2=C(C1)C=CC(=C2)C(=O)OCC | C15H17BrO3
